US05877197
N-[(1-Methylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester
To a solution of 1-methylindole-2-carboxylic acid (130 mg, 0.74 mmol) and N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, tert-butyl ester in methylene chloride (5 mL) and cooled to 0° C. Solid 4-dimethylaminopyridine (DMAP) (95 mg, 0.78 mmol) and 1-(3'-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDAC) (200 mg, 1.04 mmol) were added to the solution at 0° C. The reaction mixture was stirred at 0° C. for 1 h and allowed to warm slowly to room temperature. After 4 h the reaction was partitioned between ethyl acetate (EtOAc) and 5% KHSO4 aqueous solution. The organic layer was washed with 5% KHSO4 solution, saturated sodium bicarbonate solution, brine, dried (Na2SO4) and concentrated to a foam. The crude residue was triturated with diethyl ether and the solid filtered to afford the title compound as a light brown solid (224 mg, 65% yield). TLC(MeOH:CH2Cl2, 1:9): Rf =0.46.

reactant | 1-methylindole-2-carboxylic acid | 0.74 mmol, 130 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, tert-butyl ester | N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C14H27FN2O4
reactant | 1-(3'-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.04 mmol, 200 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.78 mmol, 95 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[(1-Methylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester | 224 mg, 65% yield | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C24H34FN3O5
